US03953601
PREPARATION OF ETHYL 2-(4-DIBENZOTHIOPHENOXY)-2-METHYLPROPIONATE
2-(4-Dibenzothiophenoxy)-2-methylpropionic acid (9.5 g) was dissolved in 500 ml absolute ethanol. Dry hydrogen chloride was bubbled through for 3 hours, and the mixture was stored over night. After evaporation of the solvent, the residue was dissolved in 250 ml ether, washed with sodium bicarbonate solution, dried and evaporated to give 8.5 g of a brown liquid, b.p. 155-170/0.001 mm Hg.

reactant | 2-(4-Dibenzothiophenoxy)-2-methylpropionic acid | 9.5 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)OC(C(=O)O)(C)C | C16H14O3S
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ETHYL 2-(4-DIBENZOTHIOPHENOXY)-2-METHYLPROPIONATE | 8.5 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)OC(C(=O)OCC)(C)C | C18H18O3S
